US07384961B2
6.90 g dimethyl-(2-pyridin-3-yl-cyclohex-2-enylmethyl)amine hydrochloride were dissolved in 70 ml methanol and hydrogenated in the presence of 1.04 g palladium-on-active charcoal (10 percent by weight) for five hours under a hydrogen pressure of 2 bar. The mixture was then filtered, the filtrate was concentrated in vacuo, the residue was converted into the base with two molar sodium hydroxide solution and a mixture of equal volumes of ethyl acetate and tetrahydrofuran and the base was extracted with ethyl acetate. After drying and concentration, the residue (4.47 g) was chromatographed on silica gel with a mixture of equal volumes of methanol, ethyl acetate and n-hexane. The main fraction (3.72 g) was dissolved in approx. 40 ml acetone/ethanol (V/V=9:1), and half a molar equivalent of water and one molar equivalent of chlorotrimethylsilane were added. After the mixture had been stirred overnight, it was concentrated to dryness, the residue was treated in an ultrasonic bath with 72 ml THF and 18 ml ethanol for 30 minutes, the suspension was stirred overnight and filtered with suction and the residue was dried. 2.42 g cis-dimethyl-(2-pyridin-3-yl-cyclohexylmethyl)amine hydrochloride with a melting point of 219-222° C. were obtained.

reactant | dimethyl-(2-pyridin-3-yl-cyclohex-2-enylmethyl)amine hydrochloride | 6.90 g | Cl.CN(CC1C(=CCCC1)C=1C=NC=CC1)C
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium | 1.04 g | [Pd] | Pd
product | cis-dimethyl-(2-pyridin-3-yl-cyclohexylmethyl)amine hydrochloride | 2.42 g | Cl.CN(C[C@H]1[C@H](CCCC1)C=1C=NC=CC1)C | InChI=1S/C14H22N2.ClH/c1-16(2)11-13-6-3-4-8-14(13)12-7-5-9-15-10-12;/h5,7,9-10,13-14H,3-4,6,8,11H2,1-2H3;1H/t13-,14+;/m0./s1
